US07189741B2
E. Preparation of 2-{2-[4-(6-fluoro-1-furan-2-ylmethyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in example 13 (part E) starting with 2 g (6.5 mmol) of 6-fluoro-1-furan-2-ylmethyl-3-piperidin-4-yl-1H-indole and 1.5 g (7.1 mmol) of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. After standard work-up and purification by flash chromatography over silica gel, 0.9 g (30% of yield) of the expected acid were obtained.

reactant | 6-fluoro-1-furan-2-ylmethyl-3-piperidin-4-yl-1H-indole | 6.5 mmol, 2 g | FC1=CC=C2C(=CN(C2=C1)CC=1OC=CC1)C1CCNCC1 | C18H19FN2O
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | 7.1 mmol, 1.5 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-{2-[4-(6-fluoro-1-furan-2-ylmethyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | FC1=CC=C2C(=CN(C2=C1)CC=1OC=CC1)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C27H27FN2O4
